US07674825B2
Ia: 2-(5-Phenylpentyloxy)nicotinic acid
At 0° C., 1.00 g (6.35 mmol) of 2-chloronicotinic acid is slowly added to a suspension of 635 mg (15.9 mmol) of 60% sodium hydride in 25 ml of DMF, and the mixture is then stirred at 0° C. for 30 min. 1.15 g (6.98 mmol) of 5-phenyl-1-pentanol are dissolved in 5 ml of DMF and slowly added dropwise to the above reaction solution. The solution is stirred at room temperature for 3.5 hours. It is then heated at 75° C. and stirred overnight. The substance is taken up in water, ethyl acetate is then added and the aqueous phase is acidified using 1M HCl. The mixture is then extracted with ethyl acetate and the extract is washed with water, dried over magnesium sulfate and concentrated under reduced pressure.

reactant | 2-chloronicotinic acid | 6.35 mmol, 1.00 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | sodium hydride | 15.9 mmol, 635 mg | [H-].[Na+]
reactant | 5-phenyl-1-pentanol | 6.98 mmol, 1.15 g | C1(=CC=CC=C1)CCCCCO | C11H16O
reactant | HCl | 1M | Cl | ClH
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(5-Phenylpentyloxy)nicotinic acid | C1(=CC=CC=C1)CCCCCOC1=C(C(=O)O)C=CC=N1 | C17H19NO3
